US07696352B2
A mixture of 3-amino-6-bromopyridine (865 mg, 5.00 mmol), 2-hydroxypyridine (475 mg, 5.00 mmol), N,N′-dimethylethylenediamine (0.215 mL, 2.00 mmol) and K2CO3 (1.38 g, 10.0 mmol) in dioxane (8 mL) was degassed with Argon before being charged with CuI (190 mg, 1.00 mmol). The mixture in a sealed tube was heated at 110° C. overnight. After being cooled down, H2O and nBuOH were added. The organic phase was separated, and concentrated in vacuo to give 1-(5-aminopyridin-2-yl)pyridin-2(1H)-one (316 mg).

reactant | 3-amino-6-bromopyridine | 5.00 mmol, 865 mg | NC=1C=NC(=CC1)Br | C5H5BrN2
reactant | 2-hydroxypyridine | 5.00 mmol, 475 mg | OC1=NC=CC=C1 | C5H5NO
reactant | N,N′-dimethylethylenediamine | 2.00 mmol, 0.215 mL | CNCCNC | C4H12N2
reactant | K2CO3 | 10.0 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 1.00 mmol, 190 mg | [Cu]I
solvent | nBuOH | C(CCC)O | C4H10O
solvent | H2O | O | H2O
product | 1-(5-aminopyridin-2-yl)pyridin-2(1H)-one | 316 mg | NC=1C=CC(=NC1)N1C(C=CC=C1)=O | C10H9N3O
